US09169200B2
The reduction reaction was carried out in the same manner as set forth in Example 6 except for using a mixture of 1.0 mmol of nitrobenzene and 1.0 mmol of o-methyl nitrobenzene instead of using nitrobenzene alone, and using 17 mg (the amount required for swelling of the reactant, i.e., the mixture, in 100%) of Polymer supported reagent-2, and thereby an azoxybenzene derivative of a symmetrical structure and an azoxybenzene derivative of an asymmetrical structure were obtained as a main product, respectively.

reactant | nitrobenzene | 1.0 mmol | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | o-methyl nitrobenzene | 1.0 mmol | CC1=C(C=CC=C1)[N+](=O)[O-] | C7H7NO2
product | azoxybenzene | [N+]([O-])(=NC1=CC=CC=C1)C1=CC=CC=C1 | C12H10N2O
